US05171863
4-Dodecoyloxymethyl-5-methyl-2-triethylsilylfuran
To a stirred solution of 5-methyl-2-triethylsilyl-4-furylmethanol (208 mg. 0.92 mmol) and triethylamine (121 mg, 1.20 mmol) in tetrahydrofuran (10 ml) at 0 degrees under argon was added lauroyl chloride 302 mg, 1.38 mmol). This solution was allowed to warm gradually to room temperature and quenched with a 10% aqueous HCl solution. The organics were extracted into hexanes and the combined fractions were washed with a saturated aqueous solution of sodium bicarbonate, H2O and brine. Evaporation of the dried (magnesium sulfate) extracts gave an oil which was purified by filtration through silica using 2% ethyl ether/hexanes to give the title compound.

reactant | 5-methyl-2-triethylsilyl-4-furylmethanol | 0.92 mmol, 208 mg | CC1=C(C=C(O1)[Si](CC)(CC)CC)CO | C12H22O2Si
reactant | triethylamine | 1.20 mmol, 121 mg | C(C)N(CC)CC | C6H15N
reactant | lauroyl chloride | 1.38 mmol, 302 mg | C(CCCCCCCCCCC)(=O)Cl | C12H23ClO
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 4-Dodecoyloxymethyl-5-methyl-2-triethylsilylfuran | C(CCCCCCCCCCC)(=O)OCC=1C=C(OC1C)[Si](CC)(CC)CC | C24H44O3Si
